US07560456B2
Oxalyl chloride (0.6 ml) was added to a suspension of 4-trifluoromethylnicotinic acid (1 g) and a catalytic amount of N,N-dimethylformamide in dichloromethane, and stirred at 20° C. for 1 hour. 4-Benzyl-5-imino-1,3,4-thiadiazoline hydrobromide (1.44 g) was added under ice cooling, and was stirred at 20° C. for 1 hour. The mixture was then washed (water), dried (magnesium sulfate), evaporated and the residue recrystallized (ethanol) to give 4-benzyl-5-(4-trifluoromethyl-3-pyridylcarbonyl)imino-1,3,4-thiadiazoline (0.3 g, Compound E-39).

reactant | Oxalyl chloride | 0.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-trifluoromethylnicotinic acid | 1 g | FC(C1=CC=NC=C1C(=O)O)(F)F | C7H4F3NO2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 4-Benzyl-5-imino-1,3,4-thiadiazoline hydrobromide | 1.44 g | Br.C(C1=CC=CC=C1)N1N=CSC1=N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-benzyl-5-(4-trifluoromethyl-3-pyridylcarbonyl)imino-1,3,4-thiadiazoline | 0.3 g | C(C1=CC=CC=C1)N1N=CSC1=NC(=O)C=1C=NC=CC1C(F)(F)F | C16H11F3N4OS
